US08440666B2
1-(3-Chloro-2-fluoropyridin-4-yl)ethanol
3-Chloro-2-fluoropyridine-4-carbaldehyde (56.1 mg, 0.35 mmol) in tetrahydrofuran (2 mL) was mixed with methylmagnesium bromide (0.98 M in tetrahydrofuran, 1.13 mL, 1.05 mmol) under −78° C., and the reaction mixture was warmed slowly to room temperature for 16 hours with stirring. After completion of the reaction, the reaction solution was mixed with saturated aqueous ammonium chloride and extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting crude reaction product containing the desired product was used for the next step (64.7 mg).

reactant | 3-Chloro-2-fluoropyridine-4-carbaldehyde | 0.35 mmol, 56.1 mg | ClC=1C(=NC=CC1C=O)F | C6H3ClFNO
reactant | methylmagnesium bromide | 1.05 mmol, 0.98 M, 1.13 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(3-Chloro-2-fluoropyridin-4-yl)ethanol | ClC=1C(=NC=CC1C(C)O)F | C7H7ClFNO
